US08980925B2
Dimethyl-5-tetradecyloxyisophthalate (D9)
The product was generated using general protocol D using dimethyl-5-hydroxyisophthalate (1.037 g, 4.93 mmol), 1-bromotetradecane (1.34 mL, 4.48 mmol), K2CO3 (2.48 g, XXmol), CH3CN (50 mL) yielded 1.21 g (60.2%) of a white solid. 1H NMR (CDCl3, 400 MHz) δ: 8.2607 (s, 1H, Ar—H), 7.7396 (s, 2H, Ar—H), 4.0315 (t, 2H, O—CH2, 3J=6.62 Hz), 3.9374 (s, 6H, COOCH3), 1.8046 (p, 2H, O—CH2—CH23J=6.82 Hz), 1.4660 (p, 2H, O—CH2—CH2—CH2, 3J=6.86 Hz), 1.2582 (m, 22H), 0.8809 (t, 3H, CH2—CH3, 3J=6.69 Hz

reactant | dimethyl-5-hydroxyisophthalate | 4.93 mmol, 1.037 g | COC(C1=CC(C(=O)OC)=CC(=C1)O)=O | C10H10O5
reactant | 1-bromotetradecane | 4.48 mmol, 1.34 mL | BrCCCCCCCCCCCCCC | C14H29Br
reactant | K2CO3 | 2.48 g | C(=O)([O-])[O-].[K+].[K+]
solvent | CH3CN | 50 mL | CC#N | C2H3N
product | Dimethyl-5-tetradecyloxyisophthalate | 1.21 g, 60.2% | COC(C1=CC(C(=O)OC)=CC(=C1)OCCCCCCCCCCCCCC)=O | C24H38O5
